US06821985B2
A mixture of sodium borohydride (0.564 g, 14.92 mmol) and ethanol (60 mL) was stirred 10 minutes and then 1-(3-methyl-4-triisopropylsilyloxyphenyl)-2-(4-(4-fluorophenyl)-4-hydroxypiperidin-1-yl)-propan-1-one (7.66 g, 14.92 mmol in 10 mL of ethanol) was added with two 30 mL ethanol rinses. The reaction mixture was stirred at ambient temperature overnight. The white solid that precipitated was collected by filtration and dried to yield 5.72 g (74%) of (1R*, 2R*)-1-(3-methyl-4-triisopropylsilyloxyphenyl)-2-(4-(4-fluorophenyl)-4-hydroxypiperidin-1-yl-propan-1-ol, which was suitable for use without further purification and had: m.p. 188-189° C.

reactant | sodium borohydride | 14.92 mmol, 0.564 g | [BH4-].[Na+]
reactant | 1-(3-methyl-4-triisopropylsilyloxyphenyl)-2-(4-(4-fluorophenyl)-4-hydroxypiperidin-1-yl)-propan-1-one | 14.92 mmol, 10 mL, 7.66 g | CC=1C=C(C=CC1O[Si](C(C)C)(C(C)C)C(C)C)C(C(C)N1CCC(CC1)(O)C1=CC=C(C=C1)F)=O | C30H44FNO3Si
reactant | ethanol | C(C)O | C2H6O
reactant | ethanol | 60 mL | C(C)O | C2H6O
product | 4-(4-fluorophenyl)-4-hydroxypiperidin-1-yl-propan-1-ol | FC1=CC=C(C=C1)C1(CCN(CC1)C(CC)O)O | C14H20FNO2
